US05990142
24C Methyl 4-(4-phenylbutoxy)-2-fluorobenzoate
Following the process described in example 18 (point A), starting from methyl 2-fluoro-4-hydroxybenzoate and 4-phenyl-1-butanol, the title compound was prepared, which was purified by chromatography through a silica gel column, eluting with hexane:ethyl acetate, 95:5 (97% yield).

reactant | methyl 2-fluoro-4-hydroxybenzoate | FC1=C(C(=O)OC)C=CC(=C1)O | C8H7FO3
reactant | 4-phenyl-1-butanol | C1(=CC=CC=C1)CCCCO | C10H14O
product | Methyl 4-(4-phenylbutoxy)-2-fluorobenzoate | 97% yield | C1(=CC=CC=C1)CCCCOC1=CC(=C(C(=O)OC)C=C1)F | C18H19FO3
